US04194008
N-(2,6-Di-sec.-butyl-phenyl)-N'-isopropyl-thiourea
15.0 g of 2,6-di-sec.-butyl-phenyl isothiocyanate are introduced, whilst cooling, into 20 g of a 65% strength aqueous solution of isopropylamine. After stirring for 3 hours at 20°, the batch is stirred into dilute hydrochloric acid, the reaction product which has precipitated in a crystalline form is filtered off and washed until neutral, and the paste is triturated with 50% strength methanol, again filtered off and dried.

reactant | 2,6-di-sec.-butyl-phenyl isothiocyanate | 15.0 g | C(C)(CC)C1=C(C(=CC=C1)C(C)CC)N=C=S | C15H21NS
reactant | isopropylamine | C(C)(C)N | C3H9N
reactant | hydrochloric acid | Cl | ClH
product | N-(2,6-Di-sec.-butyl-phenyl)-N'-isopropyl-thiourea | C(C)(CC)C1=C(C(=CC=C1)C(C)CC)NC(=S)NC(C)C | C18H30N2S
